US07691855B2
Step 33.2: 1-(2,4-Dichloro-phenyl)-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethanone
To the solution of 85 mL of diisopropylamine (Fluka 38300) and 2.5 L of THF at −75° C. under Argon is added 370 mL (0.55 Mol) of butyl lithium (BuLi; 1.6N in hexanes; Fluka 20160) within 1 h. To this is added 71 g (0.5 Mol) of 4-methyl-2-methylsulfanyl-pyrimidine in 250 mL of CH2Cl2 at −75° C. within 30 min. After this, a solution of 118 g (0.5 Mol) of 2,4dichloro-N-methoxy-N-methyl-benzamide in 250 mL of CH2Cl2 at −75° C. within 30 min followed by letting the mixture warn up to rt. After completion, the reaction mixture is poured onto 7 L of NH4Cl satd. and extracted with ethyl acetate. The combined organic layers are washed with brine, dried and evaporated. The crude product is suspended in hexanes. After filtering off and drying 1-(2,4-dichloro-phenyl)-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethanone is obtained as yellow crystals. Title compound: m.p.: 105-107° C.; ES-MS: 313.0/314.9 [M+H]+.

reactant | diisopropylamine | 85 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | 0.55 Mol, 1.6N, 370 mL | C(CCC)[Li]
reactant | 4-methyl-2-methylsulfanyl-pyrimidine | 0.5 Mol, 71 g | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | 2,4dichloro-N-methoxy-N-methyl-benzamide | 0.5 Mol, 118 g | ClC1=C(C(=O)N(C)OC)C=CC(=C1)Cl | C9H9Cl2NO2
reactant | NH4Cl | 7 L | [NH4+].[Cl-]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 2.5 L | C1CCOC1 | C4H8O
product | 1-(2,4-Dichloro-phenyl)-2-(2-methylsulfanyl-pyrimidin-4-yl)-ethanone | ClC1=C(C=CC(=C1)Cl)C(CC1=NC(=NC=C1)SC)=O | C13H10Cl2N2OS
